US05030644
0.50 gram 0.0027 mol) of 1,3-dimethyl-4-(acetylamino) -imidazoline-2-thione (prepared by acetylating by conventional means the 1,3 dimethyl-4-amino-4-imidazoline-2-thione described in Example V) and 0.28 gram (0.003 mol) of chloroacetone were mixed together and refluxed for two hours after which time a solution 0.428 gram of sodium iodide in 5 milliliters of acetone was added whereupon a reaction took place with the immediate formation of a precipitate of sodium chloride by product. The latter was removed by filtration and the filtrate evaporated to dryness to obtain a residue. The residue was dissolved in acetone and from the solution was recovered a solid which after purification on a Dowex-1 (Cl ) column and crystallization from isopropyl alcohol was obtained the desired 1,3-dimethyl-4-(acetylamino)-2 [(2-oxopropyl)-thio]-1H imidazolium chloride, m.p. 171°-173° C.

reactant | 1,3-dimethyl-4-(acetylamino) -imidazoline-2-thione | CN1C(N(C(C1)NC(C)=O)C)=S | C7H13N3OS
reactant | 1,3 dimethyl-4-amino-4-imidazoline-2-thione | CN1C(N(C(=C1)N)C)=S | C5H9N3S
reactant | chloroacetone | 0.003 mol, 0.28 gram | ClCC(C)=O | C3H5ClO
reactant | sodium iodide | 0.428 gram | [I-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetone | 5 milliliters | CC(=O)C | C3H6O
product | 1,3-dimethyl-4-(acetylamino)-2 [(2-oxopropyl)-thio]-1H imidazolium chloride | [Cl-].C[NH+]1C(N(C(=C1)NC(C)=O)C)SCC(C)=O | InChI=1S/C10H17N3O2S.ClH/c1-7(14)6-16-10-12(3)5-9(13(10)4)11-8(2)15;/h5,10H,6H2,1-4H3,(H,11,15);1H
